US07226951B2
3,5-Dibromo-benzoic acid isopropyl ester (Intermediate 205)
A solution of 3,5-dibromobenzoic Acid (Aldrich, 2.4 g, 8.6 mmol) in benzene (150 mL) and isopropanol (50 mL) was treated with concentrated sulfuric acid (2 mL) and heated to reflux overnight using a Dean-Stark water trap. The volatiles were evaporated in vacuo, the residue was diluted with water and extracted with diethyl ether. The organic phase was washed with water and saturated, aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to afford the title product as a clear oil that was used as such for the next step (2.7 g,˜100%).

reactant | 3,5-dibromobenzoic Acid | 8.6 mmol, 2.4 g | BrC=1C=C(C(=O)O)C=C(C1)Br | C7H4Br2O2
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | benzene | 150 mL | C1=CC=CC=C1 | C6H6
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | 3,5-Dibromo-benzoic acid isopropyl ester | C(C)(C)OC(C1=CC(=CC(=C1)Br)Br)=O | C10H10Br2O2
